US09315521B2
To a solution of (4-chloro-1-methyl-1H-pyrazol-3-yl)methanol (680 mg, 4.7 mmol) in anhydrous dichloromethane (25 mL) was added dropwise a solution of tribromophosphane (450 μL, 4.7 mmol) in anhydrous dichloromethane (5 mL) at 0° C. The mixture was stirred for 1 hour at room temperature and then was evaporated to yield 3-(bromomethyl)-4-chloro-1-methyl-1H-pyrazole, which was used in the next step without further purification.

reactant | (4-chloro-1-methyl-1H-pyrazol-3-yl)methanol | 4.7 mmol, 680 mg | ClC=1C(=NN(C1)C)CO | C5H7ClN2O
reactant | tribromophosphane | 4.7 mmol, 450 μL | BrP(Br)Br | Br3P
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(bromomethyl)-4-chloro-1-methyl-1H-pyrazole | BrCC1=NN(C=C1Cl)C | C5H6BrClN2
